US07335674B2
10 g (71.9 mmol) of 2,5-difluorobenzonitrile and 16.2 g (215.7 mmol; 3 equivalents) of thioacetamide are dissolved in 80 ml of dimethylformamide containing 10% hydrochloric acid. The reaction mixture is maintained under stirring at 100° C. for 48 hours. After returning to ambient temperature, the reaction mixture is poured onto ice and insoluble material is filtered out. The mother liquors are extracted with 3 times 80 ml of ethyl acetate and the organic phases are washed with twice 50 ml of water. The organic phases are combined, dried over sodium sulphate and the solvents are evaporated under reduced pressure. The residue is purified by chromatography on a silica column (eluent: ethyl acetate/heptane mixture 1:2) and 10.8 g (yield=87%) of 2,5-difluorobenzenecarbothioamide is obtained.

reactant | 2,5-difluorobenzonitrile | 71.9 mmol, 10 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | thioacetamide | 215.7 mmol, 16.2 g, 3 equivalents | C(C)(=S)N | C2H5NS
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2,5-difluorobenzenecarbothioamide | 10.8 g, yield=87% | FC1=C(C=C(C=C1)F)C(N)=S | C7H5F2NS
